US06384080B1
To a solution of 2-{trans-4-[2,3-bis(tert-butoxycarbonyl)guanidino]cyclohexylamino}-N-(3,4-dimethoxybenzyl)-5-nitrobenzamide (200 mg) in ethyl acetate (4 mL) was added 4N-hydrochloric acid in ethyl acetate (8 mL). The mixture was stirred for 15 hours at ambient temperature. After evaporation of the solvent, the residue was triturated with ethyl acetate to give N-(3,4-dimethoxybenzyl)-2-(trans-4-guanidinocyclohexylamino)-5-nitrobenzamide hydrochloride as yellow powders (145 mg).

reactant | 2-{trans-4-[2,3-bis(tert-butoxycarbonyl)guanidino]cyclohexylamino}-N-(3,4-dimethoxybenzyl)-5-nitrobenzamide | 200 mg | C(C)(C)(C)OC(=O)N=C(N[C@@H]1CC[C@H](CC1)NC1=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C=C(C=C1)[N+](=O)[O-])NC(=O)OC(C)(C)C | C33H46N6O9
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
product | N-(3,4-dimethoxybenzyl)-2-(trans-4-guanidinocyclohexylamino)-5-nitrobenzamide hydrochloride | 145 mg | Cl.COC=1C=C(CNC(C2=C(C=CC(=C2)[N+](=O)[O-])N[C@@H]2CC[C@H](CC2)NC(=N)N)=O)C=CC1OC | InChI=1S/C23H30N6O5.ClH/c1-33-20-10-3-14(11-21(20)34-2)13-26-22(30)18-12-17(29(31)32)8-9-19(18)27-15-4-6-16(7-5-15)28-23(24)25;/h3,8-12,15-16,27H,4-7,13H2,1-2H3,(H,26,30)(H4,24,25,28);1H/t15-,16-;
